US08022218B2
(a). Toluene-4-sulfonic acid isopropyl ester
At 0° C., 4-methyl-benzenesulfonyl chloride (3.8 g) was added to a solution of 2-propanol (6.12 ml) in pyridine (6.6 ml). The reaction mixture was stirred at 0° C. for 2 h and then at 20° C. for 16 h. The reaction mixture was poured into water (150 ml) and extracted with dichloromethane. The combined organic phases were washed with 3M aqueous HCl and sat. NaHCO3. After drying (MgSO4) and concentrating in vacuo, the title product was obtained as a pale yellow oil. Yield: 2.89 g. MS-ESI: [M+H]+=215.

reactant | 4-methyl-benzenesulfonyl chloride | 3.8 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 2-propanol | 6.12 ml | CC(C)O | C3H8O
reactant | water | 150 ml | O | H2O
solvent | pyridine | 6.6 ml | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid isopropyl ester | C(C)(C)OS(=O)(=O)C1=CC=C(C=C1)C | C10H14O3S
